US07018997B2
2-Formyl-7-methoxyimidazo[2,1-b]-benzthiazole was prepared according to the procedure outlined in Example 1, (Step 3). Starting from 7-methoxy imidazo[2,1-b]-benzthiazole-2-methanol (4.0 g 17 mmol) in methylene chloride/DMF(300 mL: 50 mL) and active MnO2 (12 g, excess), 822 mg (21% Yield) of the aldehyde derivative was isolated as brown solid. (M+H) 233.

reactant | 7-methoxy imidazo[2,1-b]-benzthiazole-2-methanol | 17 mmol, 4.0 g | COC1=CC2=C(N3C(S2)=NC(=C3)CO)C=C1 | C11H10N2O2S
solvent | methylene chloride DMF | 300 mL | C(Cl)Cl.CN(C)C=O
solvent | MnO2 | 12 g | O=[Mn]=O
product | 2-Formyl-7-methoxyimidazo[2,1-b]-benzthiazole | C(=O)C=1N=C2SC3=C(N2C1)C=CC(=C3)OC | C11H8N2O2S
